US09382241B2
6-(3-(2-(pyrrolidin-1-yl)ethoxyl)phenyl)pyrido[3,2-d]pyrimidin-4-amine
To a 4 mL screw-cap vial was added 3-(4-aminopyrido[3,2-d]pyrimidin-6-yl)phenol (100 mg; 0.32 mmol) followed by 1-(2-chloroethyl)pyrrolidine hydrochloride (CAS 7050-67-1) (1.1 equiv., 0.35 mmol, 59 mg) cesium carbonate (5 equiv., 1.57 mmol, 513 mg) and dimethylformamide (0.6 mL). The reaction was capped at shaken at 80° C. overnight. The reaction was cooled to room temperature, diluted with dichloromethane, and washed with water. Organic phase was concentrated, then purified by reverse phase HPLC yielding 16 mg of desired product. 1H NMR (400 MHz, DMSO) δ 8.48-8.39 (m, 2H), 8.15-8.08 (m, 2H), 8.00-7.89 (m, 3H), 7.47-7.40 (t, J=7.9 Hz, 1H), 7.12-7.03 (dd, J=8.1, 2.3 Hz, 1H), 4.27-4.18 (t, J=5.9 Hz, 2H), 2.90-2.81 (t, J=5.9 Hz, 2H), 2.59-2.53 (m, 4H), 1.76-1.66 (m, 4H). LCMS M/Z (M+H)=336.

reactant | 3-(4-aminopyrido[3,2-d]pyrimidin-6-yl)phenol | 0.32 mmol, 100 mg | NC=1C2=C(N=CN1)C=CC(=N2)C=2C=C(C=CC2)O | C13H10N4O
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 0.35 mmol, 59 mg, 1.1 equiv. | Cl.ClCCN1CCCC1
reactant | cesium carbonate | 1.57 mmol, 513 mg, 5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3-(2-(pyrrolidin-1-yl)ethoxyl)phenyl)pyrido[3,2-d]pyrimidin-4-amine | 16 mg | N1(CCCC1)CCOC=1C=C(C=CC1)C=1C=CC=2N=CN=C(C2N1)N | C19H21N5O
